US07531532B2
tert-Butyl 3-methylaminoazetidine-1-carboxylate
To a solution of 1-Boc-azetidin-3-on (240 mg) in methanol (20 ml) were added methylamine hydrochloride (1.42 g) and 10% palladium carbon (1.0 g), followed by stirring under hydrogen atmosphere at room temperature for 60 hours. The reaction mixture was filtered to remove the catalyst. To the filtrate was added again 10% palladium carbon (1.0 g), followed by stirring under hydrogen atmosphere (0.40 MPa) at room temperature for 9 hours. The reaction mixture was filtered to remove the catalyst, and the filtrate was concentrated under reduced pressure. To the resultant residue were added a saturated aqueous solution of sodium hydrogencarbonate, ethyl acetate and potassium carbonate, followed by partition. The aqueous layer was extracted with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure to provide a crude product of the title compound (216 mg) as a pale yellow oil.

reactant | 1-Boc-azetidin-3-on | 240 mg | C(=O)(OC(C)(C)C)N1CC(C1)=O | C8H13NO3
reactant | methylamine hydrochloride | 1.42 g | Cl.CN
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
product | tert-Butyl 3-methylaminoazetidine-1-carboxylate | 216 mg | CNC1CN(C1)C(=O)OC(C)(C)C | C9H18N2O2
